US05272163
c. 4-Nitro-2-cyanophenyl phenyl sulfide
4-Chloro-3-cyanonitrobenzene (12.5 g, 6.84 mmol) was added portionwise to a stirred N,N-dimethylformamide (50 mL) solution of thiophenol potassium salt [prepared by adding thiophenol (7.1 mL, 6.9 mmol) to a solution of potassium hydroxide (3.84 g, 6.84 mmol) in methanol followed by removal of the methanol in vacuo]. After stirring at 105° C. for 2.5 hours the mixture was poured into ice-water, filtered, the collected solid washed with water, dissolved in 300 mL of refluxing ethanol (charcoal), filtered, treated with 35 mL of water and refrigerated. The resulting pale yellow solid weighed 13.3 g (76%), mp 82°-84° C. 1H--NMR (250 MHz, CDCl3): 6.93 (d, 1H, J=9.0 Hz, aromatic), 7.51-7.62 (m, 5H, aromatic), 8.12(dd, 1H, J=9.2, 2.5 Hz, aromatic), 8.46 (d, 1H, J=2.5 Hz, aromatic). MS (CI, CH4): 257(M+1).

reactant | 4-Chloro-3-cyanonitrobenzene | 6.84 mmol, 12.5 g | ClC1=C(C=C(C=C1)[N+](=O)[O-])C#N | C7H3ClN2O2
reactant | thiophenol potassium salt | [K].C1(=CC=CC=C1)S
reactant | thiophenol | 6.9 mmol, 7.1 mL | C1(=CC=CC=C1)S | C6H6S
reactant | potassium hydroxide | 6.84 mmol, 3.84 g | [OH-].[K+]
solvent | methanol | CO | CH4O
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 4-Nitro-2-cyanophenyl phenyl sulfide | C1(=CC=CC=C1)SC1=C(C=C(C=C1)[N+](=O)[O-])C#N | C13H8N2O2S
